US06150373
A mixture of 200 mg (0.6 mmol) of 3-(2-methylphenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 300 mg (1.4 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 35 minutes and then cooled. The residue was subjected to column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution combined and evaporated and the residue was evaporated with toluene. The residue was dissolved in 30 ml of dichloromethane, washed twice with 20 ml of saturated aqueous sodium bicarbonate solution each time, dried over magnesium sulfate, filtered and evaporated to give 30 mg (11%) of 7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methyl-3-(2-methylphenyl)pyrimido[4,5-d]pyrimidin-2(1H)-one as a pink solid of melting point 132° C.

reactant | 3-(2-methylphenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.6 mmol, 200 mg | CC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C15H16N4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 1.4 mmol, 300 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
solvent | dichloromethane methanol acetic acid water | ClCCl.CO.C(C)(=O)O.O
product | 7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methyl-3-(2-methylphenyl)pyrimido[4,5-d]pyrimidin-2(1H)-one | 30 mg, 11% | C(C)N(CCOC1=CC=C(NC2=NC=C3C(=N2)N(C(N(C3)C3=C(C=CC=C3)C)=O)C)C=C1)CC | C26H32N6O2
